US06897231B2
A. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-morpholin-4-yl-acetamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.400 g, 0.66 mmol) in tetrahydrofuran (4 mL) was added 2-chloroacetyl chloride (0.030 mL, 0.36 mmol) followed by N,N-diisopropylethylamine (0.116 mL, 0.66 mmol). The reaction was stirred at room temperature for 4 h. Water (20 mL) was added and the reaction mixture was extracted with ethyl acetate. The combined organic organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated. The residue was dissolved in N,N-dimethylfornamide (5 mL) and morpholine (0.577 mL, 6.6 mmol) was added. The mixture was stirred at room temperature for 14 h. Water (30 mL) was added and the mixture extracted with ethyl acetate. The combined organic fractions were dried over anhydrous sodium sulfate, filtered and evaporated. The residue was dissolved in 4 N hydrochloric acid in 1,4-dioxane (10 mL) and the mixture was stirred at room temperature for 2 h. Dioxane was removed with a rotary evaporator and the residue was purified by preparative HPLC. The desired fractions were neutralized with ammonium hydroxide, extracted with butanol and evaporated to give the title compound (0.130 g, 49% yield): 1H NMR (DMSO-d6) δ 14.22 (br d, 1H), 13.50 (d, 1H), 10.00 (s, 1H), 8.65 (m, 1H), 8.05 (m, 1H), 7.69 (m, 2H), 7.26 (s, 1H), 6.75 (s, 1H), 1.74 (s, 2H), 1.32 (t, 4H), 1.24 (t, 4H); ES-MS (m/z) 404 [M+1]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.66 mmol, 0.400 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | 2-chloroacetyl chloride | 0.36 mmol, 0.030 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | N,N-diisopropylethylamine | 0.66 mmol, 0.116 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | morpholine | 6.6 mmol, 0.577 mL | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | Water | 30 mL | O | H2O
solvent | Water | 20 mL | O | H2O
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-morpholin-4-yl-acetamide | 0.130 g, 49% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CN1CCOCC1)=O | C21H21N7O2
